US07241805B2
Dissolution of Bupropion Formulations According to the Invention in Different USP-3 Media
The dissolution of bupropion HBr formulations according to the invention were assessed in three USP-3 media, i.e., SGF pH 1.2, Acetate Buffer pH 4.5 and Phosphate Buffer pH 6.8 over a period of 16 hours. These results are contained in FIG. 66. Particularly Bupropion HBr XL 348 mg tablets (final), Lot # Bup-HBr-XL-012-5; Wellbutrin XL 300 mg tablets (final), Lot # 05A116; Bupropion HBr XL 348 mg tablets EC1 Lot # Bup-HBr-XL-012-5 (EC 32 mg wg) and Wellbutrin XL 300 mg tablets (EC10-Lot # 05D047 were assessed in SGF media pH 1.2 for 2 hours, Acetate Buffer pH 4.5 for 2 hours, and Phosphate Buffer SIF pH 6.8 for a total of 10 hours. The results are contained in the FIG. 66-68.

reactant | bupropion HBr | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Br
reactant | Acetate | pH 4.5 | C(C)(=O)[O-]
reactant | Phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
reactant | Wellbutrin XL | 300 mg | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
reactant | Wellbutrin XL | 300 mg | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
reactant | Acetate | pH 4.5 | C(C)(=O)[O-]
product | Bupropion | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C | C13H18ClNO
